US05328920
Ethyl 3-(4-Pyridinylamino)indole-2-carboxylate
A solution ethyl 3-aminoindole-2-carboxylate (4.94 g, 24.2 mmole) and 4-chloropyridine hydrochloride (3.63 g, 24.2 mmole) in 70 mL of 1-methyl-2-pyrrolidinone was heated at 165° C. for 6 hours. The reaction mixture was then quenched into water and the aqueous phase was washed with ethyl acetate. After basification with a potassium carbonate solution, a solid was filtered, rinsed with water and ether and dried to give 4.13 g of a brown solid. A 2.2 g portion was recrystallized from methanol (charcoal treatment) to give 1.40 g of an off-white solid, mp: 248°-250° C. (dec.)

reactant | ethyl 3-aminoindole-2-carboxylate | 24.2 mmole, 4.94 g | NC1=C(NC2=CC=CC=C12)C(=O)OCC | C11H12N2O2
reactant | 4-chloropyridine hydrochloride | 24.2 mmole, 3.63 g | Cl.ClC1=CC=NC=C1
solvent | 1-methyl-2-pyrrolidinone | 70 mL | CN1C(CCC1)=O | C5H9NO
product | Ethyl 3-(4-Pyridinylamino)indole-2-carboxylate | 4.13 g | N1=CC=C(C=C1)NC1=C(NC2=CC=CC=C12)C(=O)OCC | C16H15N3O2
